US05409928
Preparation of 3-(4-benzylphenyl)-6-carboxy-7-hydroxypyrazolo[1,5-a]pyrimidine
A mixture of 3-(4-benzylphenyl)-6-ethoxycarbonyl-7-hydroxypyrazolo[1,5-a]pyrimidine (1.35 g), sodium hydroxide (1.50 g), ethanol (35 ml) and water (35 ml) was stirred under heating reflux for 2 hours. Then, to the reaction mixture was added water (50 ml), and hydrochloric acid was added at 0° C. to adjust to acid. After stirring for 30 minutes, the precipitate was separated by filtration, washed with water, and dried to give the title compound (1.24 g).

reactant | 3-(4-benzylphenyl)-6-ethoxycarbonyl-7-hydroxypyrazolo[1,5-a]pyrimidine | 1.35 g | C(C1=CC=CC=C1)C1=CC=C(C=C1)C=1C=NN2C1N=CC(=C2O)C(=O)OCC | C22H19N3O3
reactant | sodium hydroxide | 1.50 g | [OH-].[Na+]
reactant | ethanol | 35 ml | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | water | 50 ml | O | H2O
solvent | water | 35 ml | O | H2O
product | 3-(4-benzylphenyl)-6-carboxy-7-hydroxypyrazolo[1,5-a]pyrimidine | 1.24 g | C(C1=CC=CC=C1)C1=CC=C(C=C1)C=1C=NN2C1N=CC(=C2O)C(=O)O | C20H15N3O3
